* bank-bleed: 0.00094 F from 525 V into 8800 ohm
CB p 0 0.00094 ic=525
RD p 0 8800
.tran 0.006721 26.884 0 0.013442 uic
.control
set filetype=ascii
run
wrdata bleed-50kw.out v(p)
quit
.endc
.end